US06809199B2
Step A: 1-Ethyl-1-Methyl-4-Oxopiperidinium Iodide
A solution of 100 g (0.789 mol) of 1-ethyl-4-oxopiperidine in 1000 mL of acetone was stirred at rt in a water bath. To this was added 62.2 mL (142 g, 1 mol) of methyl iodide, dropwise at such a rate to keep the temperature below 30 degrees. A precipitate developed within minutes and the mixture was stirred at rt for 4 h. The mixture was filtered and the precipitate washed with acetone and dried to afford the title compound as a white solid. Mass spectrum (ESI) 142 (M+).

reactant | 1-ethyl-4-oxopiperidine | 0.789 mol, 100 g | C(C)N1CCC(CC1)=O | C7H13NO
reactant | methyl iodide | 1 mol, 62.2 mL, 142 g | CI | CH3I
solvent | acetone | 1000 mL | CC(=O)C | C3H6O
product | 1-Ethyl-1-Methyl-4-Oxopiperidinium Iodide | [I-].C(C)[N+]1(CCC(CC1)=O)C | InChI=1S/C8H16NO.HI/c1-3-9(2)6-4-8(10)5-7-9;/h3-7H2,1-2H3;1H/q+1;/p-1
